.title KiCad schematic
M14 Net-_M11-Pad2_ Net-_M11-Pad2_ Net-_M10-Pad1_ Net-_M10-Pad3_ NMOS_OR1 l=1u w=2u
M13 Net-_M11-Pad2_ Net-_M11-Pad1_ Net-_M10-Pad1_ Net-_M10-Pad3_ NMOS_OR1 l=1u w=2u
M10 Net-_M10-Pad1_ Net-_M10-Pad1_ Net-_M10-Pad3_ Net-_M10-Pad3_ NMOS_OR1 l=1u w=2u
M11 Net-_M11-Pad1_ Net-_M11-Pad2_ Net-_M10-Pad1_ Net-_M10-Pad3_ NMOS_OR1 l=1u w=2u
M4 Net-_M3-Pad1_ Net-_M3-Pad1_ /VDD /VDD PMOS_OR1 l=1u w=2u
M7 Net-_M12-Pad2_ NC_01 Net-_M3-Pad3_ /VSS NMOS_OR1 l=1u w=2u
M3 Net-_M3-Pad1_ NC_02 Net-_M3-Pad3_ /VSS NMOS_OR1 l=1u w=2u
M6 Net-_M12-Pad2_ Net-_M12-Pad2_ /VDD /VDD PMOS_OR1 l=1u w=2u
M2 Net-_M1-Pad1_ Net-_M1-Pad1_ /VSS /VSS NMOS_OR1 l=1u w=2u
M5 Net-_M3-Pad3_ Net-_M1-Pad1_ /VSS /VSS NMOS_OR1 l=1u w=2u
M1 Net-_M1-Pad1_ Net-_M1-Pad1_ /VDD /VDD PMOS_OR1 l=1u w=2u
M8 Net-_M11-Pad1_ Net-_M3-Pad1_ /VDD /VDD PMOS_OR1 l=1u w=2u
M12 Net-_M11-Pad2_ Net-_M12-Pad2_ /VDD /VDD PMOS_OR1 l=1u w=2u
M21 /Vout Net-_M19-Pad1_ /VDD /VDD PMOS_OR1 l=1u w=17u
M22 /Vout Net-_M19-Pad1_ Net-_M10-Pad3_ Net-_M10-Pad3_ NMOS_OR1 l=1u w=2u
M15 Net-_M15-Pad1_ Net-_M11-Pad2_ Net-_M15-Pad3_ /VDD PMOS_OR1 l=1u w=2u
M17 Net-_M15-Pad3_ Net-_M15-Pad1_ /VDD /VDD PMOS_OR1 l=1u w=2u
M16 Net-_M15-Pad1_ Net-_M11-Pad2_ Net-_M16-Pad3_ Net-_M10-Pad3_ NMOS_OR1 l=1u w=2u
M18 Net-_M16-Pad3_ Net-_M15-Pad1_ Net-_M10-Pad3_ Net-_M10-Pad3_ NMOS_OR1 l=1u w=2u
M19 Net-_M19-Pad1_ Net-_M11-Pad1_ Net-_M15-Pad3_ /VDD PMOS_OR1 l=1u w=6u
M20 Net-_M19-Pad1_ Net-_M11-Pad1_ Net-_M16-Pad3_ Net-_M10-Pad3_ NMOS_OR1 l=1u w=2u
M9 Net-_M11-Pad1_ Net-_M11-Pad1_ Net-_M10-Pad1_ Net-_M10-Pad3_ NMOS_OR1 l=1u w=2u
.end
